US05532228
c. (2-Isopropoxyethyl)-carbonylmethylenetriphenyl phosphorane
A solution of 3.04 g of sodium in 100 ml of 3-pentanol is reacted with 25.0 g of chloromethylcarbonylmethylenetriphenyl phosphorane analogously to the production of isopropoxymethylcarbonylmethylenetriphenyl phosphorane. The title compound is obtained as crystallized oil with a melting point of 66°-70° C.

reactant | sodium | 3.04 g | [Na] | Na
reactant | chloromethylcarbonylmethylenetriphenyl phosphorane | 25.0 g | ClCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18ClOP
reactant | isopropoxymethylcarbonylmethylenetriphenyl phosphorane | C(C)(C)OCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | 3-pentanol | 100 ml | CCC(CC)O | C5H12O
product | (2-Isopropoxyethyl)-carbonylmethylenetriphenyl phosphorane | C(C)(C)OCCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27O2P
